US05593988
In a nitrogen atmosphere, 4-(4-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine (1 g) was dissolved in diethyl carbonate (35 ml) and 60% sodium hydride was added thereto at room temperature with stirring. After refluxing under heating for 2 hours, the reaction mixture was cooled to room temperature and ethyl bromoacetate (0.32 ml) was added thereto. After stirring at room temperature for 3 hours, the reaction mixture was poured into cold water and extraceted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography and the objective fraction was concentrated under reduced pressure. The residue concentrated was suspended in a mixture of ethanol (90 ml) and water (30 ml). To the suspension was added barium hydroxide 8 hydrate (0.65 g) at room temperature with stirring and the mixture was stirred at room temperature for 10 hours. The reaction mixture was concentrated under reduced pressure and water was added to the residue. The mixture was washed with ethyl acetate. The aqueous layer was adjusted to pH 2 with 6N hydrochloric acid and allowed to stand at room temperature overnight. The reaction mixture was neutralized with sodium hydrogencarbonate and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure and isopropyl ether was added for crystallization. As a result, 0.15 g of (4-(4-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)acetic acid (0.15 g) was obtained as pale brown crystals, melting point 198°-202° C.

reactant | 4-(4-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 1 g | ClC1=CC=C(C=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)C | C17H15ClN4S
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromoacetate | 0.32 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | diethyl carbonate | 35 ml | C(OCC)(OCC)=O | C5H10O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-(4-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)acetic acid | 0.15 g | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)C)CC(=O)O | C19H17ClN4O2S
